US07691874B2
Preparation of 3-(3-chloropropyloxy)-N-(tert-butyloxycarbonyl)morphinan 53
To a stirred solution of 3-hydroxy-N-(tert-butyloxycarbonyl)morphinan (20 mg, 0.058 mmol) in dry DMF (0.3 mL) was added potassium carbonate (24 mg, 0.174 mmol), 1-bromo-3-chloropropane (17.3 μL, 0.174 mmol) sequentially and the mixture was stirred at 50° C. After starting material disappeared on TLC, solvent was removed and column chromatography gave 18 mg (74%) of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.05 (1H, m); 6.83 (1H, d); 6.75 (1H, d.d.); 4.28 (1H, d); 4.05 (2H, t); 3.90 (1H, m); 3.83 (3H, t); 3.15 (1H, m); 2.60 (2H, m); 2.30 (1H, m); 2.15 (1H, m); 1.30 (9H, s); 1.00˜1.80 (10H, m).

reactant | 3-hydroxy-N-(tert-butyloxycarbonyl)morphinan | 0.058 mmol, 20 mg | OC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)OC(C)(C)C | C21H29NO3
reactant | potassium carbonate | 0.174 mmol, 24 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.174 mmol, 17.3 μL | BrCCCCl | C3H6BrCl
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 3-(3-chloropropyloxy)-N-(tert-butyloxycarbonyl)morphinan | 18 mg, 74% | ClCCCOC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3C(=O)OC(C)(C)C | C24H34ClNO3
